US03992389
1-[2-(3-Indenyl)ethyl]-4-benzamidopiperidine
3-(2-Bromoethyl)indene (1.12 g.), 4-benzamidopiperidine (1.02 g.) and potassium carbonate (1.38 g.) were heated under reflux in isopropanol (25 ml.) for 24 hours. The mixture was filtered and the filtrate was evaporated. Trituration of the residue with ether gave a solid which was recrystallised twice from aqueous ethanol to provide the title compound, m.p. 148°-149° C. (Found: C, 79.7; H, 7.6; N, 8.0. C23H26N2O requires C, 79.7; H, 7.6; N, 8.1%).

reactant | 3-(2-Bromoethyl)indene | 1.12 g | BrCCC1=CCC2=CC=CC=C12 | C11H11Br
reactant | 4-benzamidopiperidine | 1.02 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 1-[2-(3-Indenyl)ethyl]-4-benzamidopiperidine | C1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C23H26N2O
